US07855194B2
4-Amino-2-(piperidin-4-ylamino)-pyrimidine-5-carbonitrile dihydrochloride
To a suspension of 4-(4-amino-5-cyano-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (3.02 g, 9.49 mmol) in dioxane (10 mL) and THF (10 mL) was added 4 M HCl in dioxane (50 mL) and the reaction mixture stirred at rt for 18 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 219.1 [M+H]+.

reactant | 4-(4-amino-5-cyano-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 9.49 mmol, 3.02 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)N)C#N | C15H22N6O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-Amino-2-(piperidin-4-ylamino)-pyrimidine-5-carbonitrile dihydrochloride | Cl.Cl.NC1=NC(=NC=C1C#N)NC1CCNCC1 | InChI=1S/C10H14N6.2ClH/c11-5-7-6-14-10(16-9(7)12)15-8-1-3-13-4-2-8;;/h6,8,13H,1-4H2,(H3,12,14,15,16);2*1H
